US09260440B2
Step 2: Methyl 4-oxo-2,3,4,9-tetrahydro-1H-carbazole-5-carboxylate
A mixture of methyl 2-bromo-3-(3-oxocyclohex-1-enylamino)benzoate (0.97 g, 3.0 mmol), palladium acetate (0.14 g, 0.6 mmol), tri-o-tolylphosphine (0.73 g, 2.4 mmol), and triethylamine (0.38 g, 3.6 mmol) in acetonitrile (10 mL) was heated in a sealed tubule flushed with nitrogen at 100° C. for 20 h. The cooled reaction mixture was diluted with DCM (3×50 mL) and water (10 mL). The organic layer was separated, washed with water, dried (Na2SO4), and concentrated.

reactant | methyl 2-bromo-3-(3-oxocyclohex-1-enylamino)benzoate | 3.0 mmol, 0.97 g | BrC1=C(C(=O)OC)C=CC=C1NC1=CC(CCC1)=O | C14H14BrNO3
reactant | tri-o-tolylphosphine | 2.4 mmol, 0.73 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.6 mmol, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
catalyst | palladium acetate | 0.6 mmol, 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 4-oxo-2,3,4,9-tetrahydro-1H-carbazole-5-carboxylate | O=C1CCCC=2NC=3C=CC=C(C3C12)C(=O)OC | C14H13NO3
